US04558155
N-[-2-(3,5-Dichlorophenoxy)ethyl]propanamine Hydrochloride
The title compound was prepared by the method of Preparation 34 from 2-(3,5-dichlorophenoxy)-1-bromoethane, n-propylamine and hydrogen chloride. The free base was obtained as an oil. The hydrochloride salt melted at 185°-186° C.

reactant | 2-(3,5-dichlorophenoxy)-1-bromoethane | ClC=1C=C(OCCBr)C=C(C1)Cl | C8H7BrCl2O
reactant | n-propylamine | C(CC)N | C3H9N
reactant | hydrogen chloride | Cl | ClH
product | N-[-2-(3,5-Dichlorophenoxy)ethyl]propanamine Hydrochloride | Cl.ClC=1C=C(OCCNCCC)C=C(C1)Cl | InChI=1S/C11H15Cl2NO.ClH/c1-2-3-14-4-5-15-11-7-9(12)6-10(13)8-11;/h6-8,14H,2-5H2,1H3;1H
